US07498326B2
(a) 4-[(2,2-Dimethyl-4,6-dioxo-[1,3]dioxan-5-ylidenemethyl)-amino]-benzonitrile
A mixture of 4-amino-benzonitrile (12.5 g, 0.106 mol), 2,2-dimethyl-[1,3]dioxane-4,6-dione (18.3 g, 0.127 mol) and trimethylorthoformate (16 ml) in ethanol (100 ml) was refluxed for 3 hours. After cooling the solid was filtered off, washed with ethanol and air dried. The product was obtained as an off-white solid (27.9 g, 97%).

reactant | 4-amino-benzonitrile | 0.106 mol, 12.5 g | NC1=CC=C(C#N)C=C1 | C7H6N2
reactant | 2,2-dimethyl-[1,3]dioxane-4,6-dione | 0.127 mol, 18.3 g | CC1(OC(CC(O1)=O)=O)C | C6H8O4
reactant | trimethylorthoformate | 16 ml | COC(OC)OC | C4H10O3
solvent | ethanol | 100 ml | C(C)O | C2H6O
product | 4-[(2,2-Dimethyl-4,6-dioxo-[1,3]dioxan-5-ylidenemethyl)-amino]-benzonitrile | 27.9 g, 97% | CC1(OC(C(C(O1)=O)=CNC1=CC=C(C#N)C=C1)=O)C | C14H12N2O4
